US04957916
A mixture of 7.4 parts of 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide, 4.4 parts of 7-methyl-3-(1-piperazinyl)-1,2-benzisoxazole, 10 parts of sodium carbonate and 94 parts of N,N-dimethylformamide was stirred overnight at 90° C. After cooling, the reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 3.8 parts (44.6%) of 3,4-dihydro-8-methyl-7-[2-[4-(7-methyl-1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl]-2H,6H-pyrimido[2,1-b][1,3]-thiazin-6-one; mp. 170.0° C. (compound 2).

reactant | 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide | Br.BrCCC1=C(N=C2SCCCN2C1=O)C
reactant | 7-methyl-3-(1-piperazinyl)-1,2-benzisoxazole | CC1=CC=CC=2C(=NOC21)N2CCNCC2 | C12H15N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-dihydro-8-methyl-7-[2-[4-(7-methyl-1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl]-2H,6H-pyrimido[2,1-b][1,3]-thiazin-6-one | 44.6% | CC=1N=C2SCCCN2C(C1CCN1CCN(CC1)C1=NOC2=C1C=CC=C2C)=O | C22H27N5O2S
